US07728155B2
To 6-chloro-4-methoxyindane (12.0 g, 0.072 mol) was added hydrogen bromide (30 wt. % in acetic acid, 325 mL) and the reaction mixture was stirred at 50° C. for 24 h. The reaction mixture was cooled to room temperature and diluted with ethyl acetate (750 mL), washed with water (3×500 mL), saturated aqueous sodium bicarbonate (2×500 m/L), saturated aqueous sodium chloride (500 mL), dried (sodium sulfate) and the solvent was removed in vacuo to provide a brown oil. Purification by flash column chromatography (silica, dichloromethane) provided 10.5 g (80%) of 6-chloroindan-4-ol as a pale yellow solid. mp 56-59° C.; Anal. calcd. for C9H9ClO.0.2H2O: C, 62.77; H, 5.50. Found: C, 62.75; H, 5.26.

reactant | 6-chloro-4-methoxyindane | 0.072 mol, 12.0 g | ClC1=CC(=C2CCCC2=C1)OC | C10H11ClO
reactant | hydrogen bromide | 325 mL | Br | BrH
solvent | ethyl acetate | 750 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloroindan-4-ol | 10.5 g, 80% | ClC=1C=C(C=2CCCC2C1)O | C9H9ClO
